US05162547
A reactor of the kind described in Example 8 is charged with 116.16 g (1.0 mol) of 1,4-cyclohexanediol and 3.14 g (0.02 mol) of powdered tin difluoride and the charge is heated to 130° C., whereupon the educt melts. Then, with efficient stirring, 152.12 ml (1.94 mol) of epichlorohydrin are added over 30 minutes. The reaction is allowed to continue for 5 hours, during which time the temperature rises to about 135° C. The reaction mixture is cooled to 55° C., 250 ml of toluene are added and, then, at this temperature, 155.2 g (1.94 mol) of a 50% aqueous solution of sodium hydroxide are added dropwise with efficient stirring over 30 minutes. After stirring for 2.5 hours at 55°-60° C. and cooling to room temperature, the suspension is filtered and the filtrate is washed with toluene. The phases are separated, and the aqueous phase is extracted with 5×50 ml of ethyl acetate. The combined organic phases are washed with as small an amount of 10% KH2PO4 solution as possible and then with water until neutral, dried over magnesium sulfate and filtered. The filtrate is freed from solvent on a rotary evaporator under vacuum (bath temperature 60° C.). Yield: 204.2 g (90% of theory) of yellowish 1,4-cyclohexane diglycidyl ether for which the following analytical values are obtained: epoxy value: 6.0 eq/kg (76% of theory); total chlorine content: 4.3%; hydrolysable chlorine content: 750 ppm.

reactant | 1,4-cyclohexanediol | 1.0 mol, 116.16 g | C1(CCC(CC1)O)O | C6H12O2
reactant | epichlorohydrin | 1.94 mol, 152.12 ml | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tin difluoride | 0.02 mol, 3.14 g | [Sn](F)F
product | 1,4-cyclohexane diglycidyl ether | Yield: 204.2 g, 90% | C12CCC(CC1)C1C(COCC3C2O3)O1 | C12H18O3
